US07807274B2
There were mixed 13.2 g (0.032 mole) of N-(4′-iodobiphenylyl)acetanilide, 6.60 g (0.039 mole) of N,N-di-phenylamine, 5.53 g (0.040 mole) of anhydrous potassium carbonate, 0.45 g (0.007 mole) of copper powder and 10 ml of n-dodecane, followed by reaction at 200 to 212° C. for 15 hours. The reaction product was extracted with 100 ml of toluene, and the insoluble matter was removed by filtration. Then, the filtrate was concentrated to obtain oily matter. The oily matter was dissolved in 60 ml of isoamyl alcohol, and 1 ml of water and 2.64 g (0.040 mole) of 85% potassium hydroxide were added, followed by hydrolysis at 130° C. After isoamyl alcohol was removed by steam distillation, extraction with 250 ml of toluene was performed, followed by washing with water, drying and concentration. The concentrate was purified by column chromatography (carrier: silica gel, eluate: toluene/n-hexane=1/2) to obtain 10.5 g (yield: 72.2%) of N,N,N′-triphenyl-4,4′-diaminobiphenyl. The melting point was 167.5 to 168.5° C.

reactant | N-(4′-iodobiphenylyl)acetanilide | 0.032 mole, 13.2 g | IC1=CC=C(C=C1)C1=C(C=CC=C1)N(C1=CC=CC=C1)C(C)=O | C20H16INO
reactant | N,N-di-phenylamine | 0.039 mole, 6.60 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 0.040 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-dodecane | 10 ml | CCCCCCCCCCCC | C12H26
reactant | potassium hydroxide | 0.040 mole, 2.64 g | [OH-].[K+]
solvent | isoamyl alcohol | 60 ml | C(CC(C)C)O | C5H12O
catalyst | copper | 0.007 mole, 0.45 g | [Cu] | Cu
solvent | water | 1 ml | O | H2O
product | N,N,N′-triphenyl-4,4′-diaminobiphenyl | 10.5 g, yield: 72.2% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C30H24N2
